US08809333B2
To a solution of 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (24.3 mg, 0.058 mmol, 1 eq) in DCM (4 mL) was added 4M HCl in dioxane (0.290 mL, 1.16 mmol, 20 eq). The reaction mixture was allowed to stir at RT for 5 mins. MeOH (100 uL) was added to the mixture. The mixture was then concentrated to dryness to give N-hydroxy-2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanamide (8.1 mg, 37% yield). LC-MS M+H+338.5.

reactant | 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.058 mmol, 24.3 mg, 1 eq | CC(C(=O)NOC1OCCCC1)(CCN1C=NC(=C1)C1=CC=CC=C1)S(=O)(=O)C | C20H27N3O5S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 1.16 mmol, 0.290 mL, 20 eq | O1CCOCC1 | C4H8O2
reactant | MeOH | 100 uL | CO | CH4O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanamide | 8.1 mg, 37% yield | ONC(C(CCN1C=NC(=C1)C1=CC=CC=C1)(S(=O)(=O)C)C)=O | C15H19N3O4S
